US07576215B2
(4-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}PHENOXY)ACETIC ACID
The title compound was prepared from 4-{3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]-phen-oxy}phenol and Bromo-acetic acid methyl ester with subsequent hydrolysis following the procedure of Example 515: MS (ES) m/z 527.9.

reactant | 4-{3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]-phen-oxy}phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OC2=CC=C(C=C2)O)C=CC1)C(F)(F)F | C29H20F3NO2
reactant | Bromo-acetic acid methyl ester | COC(CBr)=O | C3H5BrO2
product | (4-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}PHENOXY)ACETIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OC2=CC=C(OCC(=O)O)C=C2)C=CC1)C(F)(F)F | C31H22F3NO4
